US06001849
Preparation of 2-(1-methyl-2-(S)-pyrrolidinyl)-5-methylfuro[3,2-b]pyridine dihydrochloride
A 315 mg (1.04 mmol) sample of 2-(2-(S)-pyrrolidinyl)-5-methylfuro[3,2-b]pyridine dihydrochloride, from Example 5b above, was dissolved in 5 mL of 88% formic acid and 10 mL of 37% aqueous formaldehyde and heated at reflux for 0.5 hours. The reaction mixture was cooled, diluted with 2 N HCl and extracted with ether. The aqueous solution was adjusted to pH 10 with K2CO3 and extracted with CH2Cl2. The CH2Cl2 extract was dried over MgSO4, and the solvent was removed. The residue was chromatographed on silica gel, eluting with 100:0 to 95:5 CHCl3 :EtOH The residue was converted to the salt by treatment with HCl/ether, and the salt was recrystallized from EtOH/EtOAc to give 332 mg of title compound: 1H NMR (DMSO, 300 MHz) δ 2.13-2.23 (m, 2H), 2.35-2.60 (m, 3H), 2.71 (s, 3H), 2.88 (s, 2H), 3.33 (br s, 1H), 3.70 (br s, 1H), 4.88 (m, 1H), 7.54 (d, 1H, J=8.8 Hz), 7.61 (s, 1H), 8.36 (d, 1H, J=8.5 Hz); MS m/z: 217 (M+H)+, 234 (M+NH4)+ ; Anal. Calcd for C13H16N2O.2.0 HCl.1.0 H2O: C, 50.82; H, 6.55; N, 9.12. Found: C, 50.47; H, 6.77; N, 8.92.

reactant | 2-(2-(S)-pyrrolidinyl)-5-methylfuro[3,2-b]pyridine dihydrochloride | Cl.Cl.N1[C@@H](CCC1)C1=CC2=NC(=CC=C2O1)C
reactant | formaldehyde | 10 mL | C=O | CH2O
solvent | formic acid | 5 mL | C(=O)O | CH2O2
solvent | HCl | 2 N | Cl | ClH
product | 2-(1-methyl-2-(S)-pyrrolidinyl)-5-methylfuro[3,2-b]pyridine dihydrochloride | 332 mg | Cl.Cl.CN1[C@@H](CCC1)C1=CC2=NC(=CC=C2O1)C | InChI=1S/C13H16N2O.2ClH/c1-9-5-6-12-10(14-9)8-13(16-12)11-4-3-7-15(11)2;;/h5-6,8,11H,3-4,7H2,1-2H3;2*1H/t11-;;/m0../s1
